Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
# Percutaneous cat-scan guided needle biopsy of the right chest

 
History of Present Illness:
___ with no past medical history transferred from ___ 
with fever, cough x 3 days with 6 episodes of sub-massive 
hemoptysis inpast 24 hours. Cough previously non-productive 
until hemoptysis. + chills/fever. Of note, he had 3 weeks of 
right shoulder and right sided pleuritic chest pain that 
resolved about 1.5 weeks ago. Pleuritic chest pain returned over 
past 3 days with oncset of symptoms. No dyspnea. No recent 
travel, history of blood clots. No hx of incarceration, 
homelessness, or recent foreign travel. Born in ___. Saw PCP who 
said he had viral syndrome. Last ___ at 1800 had hemoptysis - 
approx 1 tbsp. Went to ___, CTA ruled out PE, but concern 
for Right middle lobe pneumonia with concern for necrotizing pna 
or possible ___ - transferred to ___ for possible IP eval. 
Prior to transfer recieved vancomycin, ceftriaxone and 
azithromycin.
.
In the ED, initial VS: 99.3 128/60 73 18 100%RA. Patient was 
given ibuprofen for right sided pleuritic pain.
.
On the floor, patient is frustrated. Pleuritic pain improved 
from ___ to ___ with ibuprofen.
.
ROS: Denies night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, shortness of breath, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
VS: 98.8 136/79 68 18 97%RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.
NECK: Supple, no LAD.
HEART: RRR, no MRG, nl S1-S2.
LUNGS: decreased BS in lower right lung fields. otherwise CTA 
bilat. no appreciable rhonchi. resp unlabored.
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.
SKIN: No rashes or lesions.
LYMPH: No cervical LAD.
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact
MSK - no reproducable chest wall pain/shoulder pain.

Discharge Exam:
Unchanged.
 
Pertinent Results:
Admission Labs:

___ 06:35AM   PLT COUNT-243
___ 06:35AM   NEUTS-85.2* LYMPHS-8.6* MONOS-5.8 EOS-0.2 
BASOS-0.3
___ 06:35AM   WBC-15.1* RBC-4.22* HGB-12.3* HCT-36.0* 
MCV-85 MCH-29.1 MCHC-34.1 RDW-13.1
___ 06:35AM   CALCIUM-9.1 PHOSPHATE-2.5* MAGNESIUM-2.1
___ 06:35AM   LD(LDH)-164
___ 06:35AM   estGFR-Using this
___ 06:35AM   GLUCOSE-100 UREA N-12 CREAT-0.8 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ 12:40PM   ___ PTT-26.1 ___
___ 12:40PM   D-DIMER-259

Imaging: None - see ___ records

CT-Guided Biopsy:
Uncomplicated needle core biopsy of intermediate density right 
middle
lobe/cardiophrenic recess abnormality. Differential is broad 
including round
pneumonia or pericardial cyst with internal debris. Histologic 
analysis and
microbiological analysis is currently pending.

Pathology:
The core biopsy demonstrates an acute lung injury pattern with a 
neutrophil-predominant mixed inflammatory infiltrate accompanied 
by intra-alveolar fibrin exudates. AFB and GMS stains are 
negative. The histologic findings favor infection. An ANCA may 
be useful to help rule out vasculitis.

Discharge Labs:

___ 07:06AM BLOOD WBC-13.9* RBC-4.65 Hgb-13.3* Hct-40.0 
MCV-86 MCH-28.7 MCHC-33.3 RDW-13.1 Plt ___
___ 07:06AM BLOOD Neuts-88* Bands-0 Lymphs-6* Monos-4 Eos-0 
Baso-0 Atyps-2* ___ Myelos-0
___ 07:06AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
 
Brief Hospital Course:
___ with no past medical history admitted with hemoptysis 
attributed to complicated CA-PNA vs. R thoracic mass.
.
ACTIVE ISSUES:

# Hemoptysis: Extensive discussion in person with the chest 
radiologist raised concern for a solid mass of indeterminate 
etiology; this prompted a CT-guided core biopsy, which showed 
changes consistent with infection several days after the time of 
discharge.
.
# Community-acquired pneumonia: Although he had no risk factors 
for health care associated pneumonia, the patient's presentation 
was initially concerning for necrotizing pneumonia - he was 
covered broadly with vancomycin, ceftriaxone, and azithromycin. 
Cultures were sent and pending at the time of discharge. He was 
discharged on azithromycin, augmentin, and linezolid for a 
tentative course of 14 days with plans for the PCP to narrow 
according to culture data. Sputum culture after discharge showed 
oral flora; biopsy culture showed rare strep species. Blood 
cultures were still pending.
.
# Pre-renal acute kidney injury: Resolved with fluids.

TRANSITIONAL ISSUES:
# Repeat CT-Scan will be overseen by the patient's PCP.
# Blood cultures pending
 
Medications on Admission:
None
 
Discharge Medications:
1. azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
2. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
3. linezolid ___ mg Tablet Sig: One (1) Tablet PO twice a day 
for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
4. Percocet ___ mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 5 days: never drive, operate heavy 
machinery, or drink alcohol with this medication.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Community acquired pneumonia, possibly necrotizing
-Opacity on Cat-Scan in the right chest as of yet unspecified
SECONDARY:
-None

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It has been a privilege to take care you at ___.
.
You were referred to our hospital for further evaluation of your 
pneumonia and for further evaluation of an abnormal cat-scan 
performed at ___.
.
Based on their findings our radiologists recommended that the 
finding on cat-scan in your chest be sampled with a biopsy 
needle. This was performed by the interventional radiologists 
under cat-scan guidance. You tolerated the procedure well. The 
results are still pending. You will need to follow-up with your 
primary care physician for those results.
.
Due to your symptoms, which have included chest pain with 
breathing, fever, cough, and coughing up blood, you are being 
treated for an aggressive pneumonia called a necrotizing 
pneumonia. Your treatment is with very strong antibiotics by 
mouth; you will need to follow-up with your primary care 
physician to change the antibiotics to less aggressive 
antibiotics based on the results of cultures sent this 
hospitalization, which are still pending.
.
No changes were made to your medications other than as detailed 
below:
START:
-Azithromycin antibiotics
-Cefpodoxime antibiotics
-Linezolid antibiotics
-percocet as needed for pain. never drive, operate heavy 
machinery, or drink alcohol with this medication.
.
Follow-up with your primary care physician for ___ chest x-ray 
___. This appointment has been scheduled for you.
 
Followup Instructions:
___